US06518273B1
1-[3-(1-Methylethoxy)phenyl]piperazine
Prepared from 1,1-dimethylethyl 4-(3-hydroxyphenyl)-1-piperazinecarboxylate (Description 21) and 2-iodopropane according to the method of Description 22. 1H NMR (250 MHz, CDCl3) δ1.34 (6H, d, J 6 Hz), 3.63-3.78 (8H, m), 4.51-4.60 (1H, m), 6.78-6.84 (2H, m), and 7.30-7.37 (1H, m).

reactant | 1,1-dimethylethyl 4-(3-hydroxyphenyl)-1-piperazinecarboxylate | OC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
reactant | 2-iodopropane | IC(C)C | C3H7I
product | 1-[3-(1-Methylethoxy)phenyl]piperazine | CC(C)OC=1C=C(C=CC1)N1CCNCC1 | C13H20N2O
